US08865713B2
Step A: 5-Bromo-3-fluoro-benzene-1,2-diamine.
To a solution of 5-bromo-3-fluoro-2-nitro-phenylamine (2 g, 8.5 mmol), NH4Cl (6.81 g, 127.6 mmol), acetone (100 mL) and water (20 mL), was added zinc powder portion-wise (three equal portions over 5 minutes) (8.34 g, 127.6 mmol) at 0° C. The mixture was stirred for 2 h then warmed to 23° C. The mixture was filtered through Celite® and the solvents were concentrated under reduced pressure. The mixture was re-dissolved in EtOAc/DCM and filtered a second time through Celite® and the solvents were evaporated. The crude mixture was diluted with EtOAc (200 mL), washed with brine (40 mL), dried, filtered, and concentrated under reduced pressure. The resultant residue was used in the next reaction without further purification.

reactant | 5-bromo-3-fluoro-2-nitro-phenylamine | 8.5 mmol, 2 g | BrC=1C=C(C(=C(C1)N)[N+](=O)[O-])F | C6H4BrFN2O2
reactant | NH4Cl | 127.6 mmol, 6.81 g | [NH4+].[Cl-]
reactant | acetone | 100 mL | CC(=O)C | C3H6O
catalyst | zinc | [Zn] | Zn
solvent | water | 20 mL | O | H2O
product | 5-Bromo-3-fluoro-benzene-1,2-diamine | BrC1=CC(=C(C(=C1)N)N)F | C6H6BrFN2
